US09289419B2
Step-3: Synthesis of 5-(2,5-difluorophenyl)-3,4-dihydro-2H-pyrrole
TFA (108 g, 940 mmol) was added to a solution of tert-butyl 5-(2,5-difluorophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate (53 g, 188 mmol) in DCM (300 mL) at 0° C. and stirring was continued at 20-35° C. for 2 h. The reaction mixture was concentrated under reduced pressure to afford the crude, which was diluted with EtOAc, washed with saturated NaHCO3 solution, dried over anhydrous sodium sulphate to afford 28.5 g of the title compound.

reactant | TFA | 940 mmol, 108 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 5-(2,5-difluorophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 188 mmol, 53 g | FC1=C(C=C(C=C1)F)C1=CCCN1C(=O)OC(C)(C)C | C15H17F2NO2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2,5-difluorophenyl)-3,4-dihydro-2H-pyrrole | 28.5 g | FC1=C(C=C(C=C1)F)C=1CCCN1 | C10H9F2N
